US08044052B2
Phenyl 6-methoxypyrazin-2-ylcarbamate
2-Amino-6-methoxy-pyrazine (1.00 g, 8 mmol) was dissolved in a mix of 1:2 THF:MeCN (30 mL), cooled to 0° C., and treated with pyridine (0.664 g, 8.3 mmol) followed by the dropwise addition of phenylchloroformate (1.3 g, 8.3 mmol) in THF (10 mL). After stirring for 18 h, the resulting white solid was collected by filtration (1.3 g, 68%) and was used without further purification.

reactant | 2-Amino-6-methoxy-pyrazine | 8 mmol, 1.00 g | NC1=NC(=CN=C1)OC | C5H7N3O
reactant | MeCN | 30 mL | CC#N | C2H3N
reactant | pyridine | 8.3 mmol, 0.664 g | N1=CC=CC=C1 | C5H5N
reactant | phenylchloroformate | 8.3 mmol, 1.3 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Phenyl 6-methoxypyrazin-2-ylcarbamate | COC1=CN=CC(=N1)NC(OC1=CC=CC=C1)=O | C12H11N3O3
